* Created by KLayout

* cell OR2
* pin Y
* pin vdd
* pin A
* pin B
* pin gnd
.SUBCKT OR2 Y vdd A B gnd
* device instance $1 r0 *1 6.1,44.8 PMOS_mst
M$1 \$3 A \$4 vdd PMOS_mst L=1U W=10.2U AS=28.56P AD=15.3P PS=26U PD=13.2U
* device instance $2 r0 *1 10.1,44.8 PMOS_mst
M$2 vdd B \$3 vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $3 r0 *1 14.1,44.8 PMOS_mst
M$3 Y \$4 vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=28.56P PS=13.2U PD=26U
* device instance $4 r0 *1 6.1,6.8 NMOS_mst
M$4 \$4 A gnd gnd NMOS_mst L=1U W=3.4U AS=9.52P AD=5.1P PS=12.4U PD=6.4U
* device instance $5 r0 *1 10.1,6.8 NMOS_mst
M$5 gnd B \$4 gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $6 r0 *1 14.1,6.8 NMOS_mst
M$6 Y \$4 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=9.52P PS=6.4U PD=12.4U
.ENDS OR2
